US08217065B2
2-(2,6-Dichloro-phenyl)-6-(5-morpholin-4-yl-[1,3,4]oxadiazol-2-yl)-1H-benzoimidazole
A 20% solution of phosgene in toluene (163 uL, 0.310 mmol) was added dropwise to a solution of morpholine (27 uL, 0.310 mmol) in DCM (3 mL) and EDIPA (108 uL, 0.620 mmol) at 0° C. The reaction was stirred for 25 min before the addition of 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide (50 mg, 0.155 mmol) and DMF (1 mL). The ice in the ice bath was allowed to melt, slowly warming the reaction to room temp. The reaction was stirred for 4 days. The reaction was transferred to a microwave vial charged with Burgess reagent (110 mg, 0.465 mmol) and the mixture heated by microwave irradiation to 150° C. for 15 min. The reaction was diluted with EtOAc (50 mL) and extracted with water (10 mL). The organic phase was concentrated to a yellow oil and purified by reverse-phase HPLC (20-45% ACN/H2O+5 mM NH4OH) to afford the title compound: 1H NMR (400 MHz, MeOD) ppm 3.66-3.72 (m, 4 H) 3.90-3.96 (m, 4 H) 7.63-7.72 (m, 3 H) 7.87 (d, J=7.96 Hz, 1 H) 8.03 (dd, J=8.59, 1.26 Hz, 1 H) 8.30 (br. s., 1 H); MS (m/z) 416.1 (M+1).

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.310 mmol, 163 uL | C1(=CC=CC=C1)C | C7H8
reactant | morpholine | 0.310 mmol, 27 uL | N1CCOCC1 | C4H9NO
reactant | EDIPA | 0.620 mmol, 108 uL | CCOP(N(C(C)C)C(C)C)O | C8H20NO2P
reactant | 2-(2,6-dichloro-phenyl)-3H-benzoimidazole-5-carboxylic acid hydrazide | 0.155 mmol, 50 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=C(N1)C=CC(=C2)C(=O)NN | C14H10Cl2N4O
reactant | Burgess reagent | 0.465 mmol, 110 mg | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2,6-Dichloro-phenyl)-6-(5-morpholin-4-yl-[1,3,4]oxadiazol-2-yl)-1H-benzoimidazole | ClC1=C(C(=CC=C1)Cl)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)N2CCOCC2 | C19H15Cl2N5O2
